US04196208
Preparation of 1-cyanoethyl 4-(hexadecylamino)benzoate
A mixture of 1 g. (16.1 m moles) potassium cyanide, 5 ml. diisopropylethylamine and 800 mg. (18.1 m moles) acetaldehyde in 50 ml. tetrahydrofuran is stirred for 2 hours at room temperature. To this solution is added 6.7 g. (16.1 m moles) 4-(hexadecylamino)benzoyl chloride hydrochloride in 50 ml. tetrahydrofuran. After stirring for an additional 2 hours, the solution is diluted with 100 ml. water and extracted with ether. After drying the magnesium sulfate, the ether is evaporated and the residue is crystallized from acetonitrile to yield the title compound.

reactant | potassium cyanide | [C-]#N.[K+]
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetaldehyde | C(C)=O | C2H4O
reactant | 4-(hexadecylamino)benzoyl chloride hydrochloride | Cl.C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)Cl)C=C1
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-cyanoethyl 4-(hexadecylamino)benzoate | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)OC(C)C#N)C=C1 | C26H42N2O2
